US04055561
Hexahydro-2-(α-methyl-ρ-phenethylbenzylimino)-azepine hydrochloride
A mixture of 15.0 g of α-methyl-ρ-phenethylbenzylamine hydrochloride and 25 ml of O-methylcaprolactim is stirred into a slurry and allowed to stand at room temperature for 4 days with occasional stirring. Small portions of absolute ethanol are added to keep the slurry stirrable. The mixture is then cooled to -20° C., the precipitate is collected, washed with small portions of absolute ether and recrystallized from a mixture of acetone-methanol to yield 15.7 g (76% yield) of the desired product, M.P. 230°-231.5° C.

reactant | α-methyl-ρ-phenethylbenzylamine hydrochloride | 15.0 g | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N
reactant | O-methylcaprolactim | 25 ml | COC=1CCCCCN1 | C7H13NO
solvent | ethanol | C(C)O | C2H6O
product | Hexahydro-2-(α-methyl-ρ-phenethylbenzylimino)-azepine hydrochloride | 15.7 g, 76% yield | Cl.CC(C1=CC=C(C=C1)CCC1=CC=CC=C1)N=C1NCCCCC1 | InChI=1S/C22H28N2.ClH/c1-18(24-22-10-6-3-7-17-23-22)21-15-13-20(14-16-21)12-11-19-8-4-2-5-9-19;/h2,4-5,8-9,13-16,18H,3,6-7,10-12,17H2,1H3,(H,23,24);1H
